US07138491B2
The preparation of Boc-Ala-Arg(Tos)-Pro-Ala-OH (SEQ ID NO: 7)
At 0° C. to the solution of 550 mg (0.726 mmol) of Boc-Ala-Arg(Tos)-Pro-Ala-OBzl (SEQ ID NO: 7) in 20 ml of methanol 8 ml of the solution of NaOH in methanol (2 mol/L) were added. The reaction mixture was stirred at 0° C. for 2 h and TLC (chloroform/methanol, 15:1) indicated complete disappearance of Boc-Asn-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl (SEQ ID NO: 17). The reaction mixture was neutralized to pH 7 and evaporated at room temperature to remove methanol. The residue was acidified to pH 1–2 with hydrochloric acid (2 mol/L) to provide 330 mg (67%) of the title compound as a colorless powder.

reactant | Boc-Ala-Arg(Tos)-Pro-Ala-OBzl | 0.726 mmol, 550 mg | N([C@@H](C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C36H51N7O9S
reactant | NaOH | [OH-].[Na+]
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | Boc-Asn-Arg(Tos)-Pro-Ala-Lys(ClZ)-OBzl | N([C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OCC2=C(Cl)C=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C51H69ClN10O13S
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 2 mol/L | CO | CH4O
product | Boc-Ala-Arg(Tos)-Pro-Ala-OH | 330 mg, 67% | N([C@@H](C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)O)CCC1)C(=O)OC(C)(C)C | C29H45N7O9S
